Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
encephalopathy
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with epilepsy, intellectual disability, hyponatremia,
hypothyroidism who presented to the ED from her group home after
having a seizure, on whom neurology has been consulted due to
concern for seizure.

History was obtained from ED dash as patient could not provide
history at time of evaluation.

Patient was sent in from group home after having a seizure. EMS
noted that patient may have had "possible tremors, with left eye
deviation concerning for seizure activity".  Reportedly AAO x3 
at
baseline, normally verbal able to follow commands. Patient was
given 2 mg of versed by EMS.  In the ED, patient reportedly had
left eye deviation, left arm and leg tremor, although was
intermittently responsive.  Per RN at bedside, she was able to
say her name one time, but no other verbal output and no
commands.  Patient then received 2 mg IV Ativan prior to getting
a central line (could not obtain PIV access).  I attempted to
call patient's group home at ___ for further information;
however no one answered.

Patient was admitted to neurology service from ___ to ___
when she presented with focal status epilepticus consisting of
left-sided facial twitching, left gaze deviation.  At that time,
the etiology of her seizure was thought to be subtherapeutic
phenytoin and acute on chronic hyponatremia with admission 
sodium
of 126 (or 128?).  During this admission, her phenytoin was
increased to 130 mg twice daily from 100/130.  Her salt tab
frequency was also increased to 1000 milligrams twice daily.  

From prior admission note, 
"Of note, Ms. ___ has intellectual disability, but is fairly
independent. She lives in a group home and goes to day program.
She is conversant. Toileting, dressing, eating independently. 
The meals are prepared for her, and she does not shop or handle
finances independently. All medications are administered by the
group home where she resides.

Seizure history:
Had first life-time seizure at age of ___, has infrequent
seizures, last one ___ years ago. In the past, her seizures have
been triggered by hyponatremia or trial of phenytoin wean. Her
epilepsy has been well controlled on valproic acid ___ BID and
phenytoin 100mg AM/130mg ___

ROS: Could not be obtained as patient cannot provide this
information and group home could not be reached

 
Past Medical History:
HYPONATREMIA                                                    
HYPOTHYROIDISM                                                  
DEPRESSION                                                      
EPILEPSY                                                        
FRACTURED BONE                                                  
MENTAL RETARDATION                                              
OSTEOPENIA                                                      
POSTMENOPAUSAL                                                  
ROSACEA                                                         
STRABISMUS                                                      
HYPERLIPIDEMIA                                                  
HYPONATREMIA                                                    

 
Social History:
___
Family History:
Relative Status   Age Problem              Onset Comments       
Mother                UNKNOWN                                   

Father                UNKNOWN                                   

Comments: SISTER guardian ___ uncertain                   
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION: 
Vitals: T: 98.6 BP: 102/60 HR: 75 RR: 16 SaO2: 99
General: Somnolent, lying in bed, requires strong tactile
stimulus to open eyes
HEENT: NC/AT, no scleral icterus noted, MMM
Pulmonary: Normal work of breathing.
Cardiac: Warm, well-perfused.
Extremities: No ___ edema. 
Skin: No rashes or lesions noted.

Neurologic: Severely limited as patient had just received IV
Ativan prior to neurology evaluation
-Mental Status: Somnolent, eyes closed but will open to strong
tactile stimulus.  Grunts in response to noxious, but no other
verbal output.  Was able to squeeze examiner's hand on the 
right,
and let go.  No other commands.  Does not respond when asked for
name or location.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm.  At time of neurology
evaluation, patient had right eye deviation.  She was able to
look towards examiner on the right.  On the left side, patient
was able to briefly cross midline, but did not bury sclera. 
Roving eye movements noted at rest.  BTT on right but not on the
left.  Per ED, patient at baseline has "visual deficit" on her
left.
VII: No facial droop noted at rest

-Sensory/motor: Patient was antigravity in both upper 
extremities
at the elbow in response to noxious.  In the lower extremities,
patient was antigravity at the knee in response to noxious.

-Reflexes:
Could not be obtained as patient did not relax
Toes appear upgoing bilaterally, although patient briskly
withdrew her feet response to noxious

-Coordination: Could not be obtained

-Gait: Deferred

DISCHARGE PHYSICAL EXAMINATION

___, 12:00 ___, T97.8, HR 86, RR11, BP113/83, O2 99%, 
reviewed
in Metavision
 General: Awake, alert cooperative, NAD.
 HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted 
in
oropharynx
 Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
 Pulmonary: Lungs CTA bilaterally without R/R/W
 Cardiac: RRR, nl. S1S2, no M/R/G noted
 Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted. No hematoma or tenderness at femoral line
removal site
 Extremities: No ___ edema.
 Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented to self and place, says it is
___. She says that she would like to go home. Intact
comprehension. No paraphasic errors. Pt was able to name both
high and low frequency objects.  Speech was not dysarthric 
today.
Able to follow both midline and appendicular instructions with
significant coaching and encouragement. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 2.5 to 2mm and brisk. right eye 
slightly
exotropic, right beating nystagmus on primary gaze, limited
upgaze, does not bury sclera bilaterally. Normal saccades. 
 V: Facial sensation intact to light touch.
 VII: right nasolabial fold flattening, smile symmetric.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
 No adventitious movements, such as tremor, noted. No asterixis
noted. 

-Motor: Normal bulk and tone, no adventitious movements
RUE: delt ___, biceps ___, triceps ___, finger flexion ___
LUE: delt ___, biceps ___, triceps ___, finger flexion ___
RLE: IP: ___, kicks and moves leg antigravity
LLE: IP: ___, kicks and moves leg antigravity

-Sensory: No deficits to light touch

-Coordination: No intention tremor. No dysmetria on FNF
bilaterally.

-Gait: deferred
 
Pertinent Results:
MRI-B ___ -
 1. No no evidence of mass, hemorrhage or recent infarction.
2. Chronic bifrontal infarcts.
3. Nonspecific bilateral supratentorial T2/FLAIR hyperintense 
foci, which may
represent the sequelae of chronic microangiopathy.

CTH ___ - 
 
1. No acute intracranial abnormalities.
2. Chronic microvascular angiopathy and chronic infarcts in the 
frontal lobes
bilaterally.
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a history of
epilepsy (GTC on depakote and dilantin), intellectual 
disability,
chronic hyponatremia, hypothyroidism, who presented to the ED
from her group home where she had an episode concerning for
breakthrough seizure. She spiked a fever to 102 in the ED, and 
was started on broad spectrum meningitic coverage. An LP was 
done which was bland. She had a CTH with diffuse atrophy, no 
acute process. There was evidence of pneumonia on CXR, which was 
thought to be the most likely source of fever and thus her 
antibiotics were tapered to target community acquired pneumonia 
(as living in a group home setting is considered community 
acquired). This infection was thought to be the provoking 
etiology of seizure, as her AED levels were within normal limits 
and she had only mild hyponatremia in line with her previous 
ranges. While hospitalized, her pneumonia was treated with 
cefepime, which was transitioned to ceftriaxone, and she 
completed a 5 day course. She was found to be subtherapeutic on 
her AEDs (likely secondary to missed dose in the ED), which were 
reloaded, and her home doses were continued. She was evaluated 
by ___ who initially recommended rehab but on subsequent 
evaluation cleared her for home. Her home medications were 
continued. MRI brain was done to look for stroke as possible 
provoking etiology of seizure (and R NLFF on exam) however this 
was normal. Patient was at her neurological baseline at time of 
discharge and will follow up with her outpatient neurologist at 
___, which was discussed with her group home manager.

# Breakthrough Seizure
- EEG reassuring without any seizure activity
- MRI- B no evidence of acute findings
- continue home dose Depakote 500mg BID and phenytoin 130mg BID

# Community Acquired Pneumonia
- Cefepime and Vancomycin transitioned to Ceftriaxone completing 
a total of 6 days of antibiotics ___ levofloxacin 
due to seizures)

#Hyponatremia - chronic issue, reportedly due to SIADH
- Responded well to fluid restriction of 2L daily, slowly 
normalizing over 3 days. Recommend follow up with PCP, as 
hyponatremia should be avoided as it can precipitate seizure.

Transitional Issues
- follow up free Dilantin level (send out), still pending at 
discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. alclometasone 0.05 % topical ASDIR 
2. calcium carbonate-vitamin D3 1500 -400 mg oral BID 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 20 mg PO QPM 
5. DiphenhydrAMINE 25 mg PO QHS:PRN insomnia 
6. Famotidine 20 mg PO BID 
7. FLUoxetine 20 mg PO QAM 
8. Levothyroxine Sodium 88 mcg PO DAILY 
9. Oxybutynin 5 mg PO QHS 
10. FoLIC Acid 1 mg PO DAILY 
11. Ketoconazole 2%  1 Appl TP ASDIR 
12. Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 
13. Divalproex (EXTended Release) 500 mg PO BID 
14. Sodium Chloride 1 gm PO BID 
15. Phenytoin Sodium Extended 130 mg PO BID 

 
Discharge Medications:
1.  alclometasone 0.05 % topical ASDIR  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 20 mg PO QPM  
4.  calcium carbonate-vitamin D3 1500 -400 mg oral BID  
5.  DiphenhydrAMINE 25 mg PO QHS:PRN insomnia  
6.  Divalproex (EXTended Release) 500 mg PO BID  
7.  Famotidine 20 mg PO BID  
8.  FLUoxetine 20 mg PO QAM  
9.  FoLIC Acid 1 mg PO DAILY  
10.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild  
11.  Ketoconazole 2%  1 Appl TP ASDIR  
12.  Levothyroxine Sodium 88 mcg PO DAILY  
13.  Oxybutynin 5 mg PO QHS  
14.  Phenytoin Sodium Extended 130 mg PO BID  
15.  Sodium Chloride 1 gm PO BID  
16.Outpatient Physical Therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
breakthrough seizure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

You were hospitalized due to symptoms of breakthrough seizure 
resulting from pneumonia, a condition where being sick makes you 
more likely to have seizures. While you were hospitalized, we 
did treated your pneumonia with antibiotics, and we gave you 
extra doses of your seizure medications, because when you first 
came in to the hospital, your levels were low, likely because of 
missed doses in the ED. We continued your other home 
medications. 

We are changing your medications as follows:
No medication changes

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911):
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

It was a pleasure taking care of you!

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___